US07235569B2
To a stirred solution of 2-(5-fluoro-1-benzofuran-3-yl)ethanol (900 mg, 5 mmol) in anhydrous pyridine (20 ml), p-toluenesulfonyl chloride (1.14 g, 6.0 mmol) was added. The reaction mixture was kept at 0° C. for 48 hrs and quenched with ice cold water. The reaction mixture was extracted with chloroform, washed well with water and dried over anhydrous MgSO4. It was filtered and concentrated. The crude product obtained was taken to next step without any purification. A mixture of tosylate (334 mg. 1 mmol) (obtained by the above mentioned process) and 3 (1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole (198 mg, 1 mmol) was heated at 120° C. in DMSO in the presence of N,N-diisopropylethylamine (5 ml, excess) for 24 hrs. At the end, the reaction mixture was quenched with water and extracted with chloroform. The organic layer was washed with water and dried over anhydrous MgSO4 and concentrated to dryness. The dark colored solid was purified by silica-gel column chromatography by eluting it with 70% ethyl acetate:hexane. 3-{1-[2-(5-fluoro-1-benzofuran-3-yl)ethyl]-1,2,3,6-tetrahydro-4-pyridinyl}-1H-indole was isolated as yellow solid. mp 158° C.; Yield: 140 mg (38%); 361 (M+H); 1H NMR: δ 8.2 (bs, 1H), 7.9 (d,1H), 7.59 (s, 1H), 7.45–7.0 (m, 7H), 6.3 9s, 1H), 3.4 (m, 2H), 3.0 (m, 2H), 2.84 (m, 4H), 2.68 (m, 2H).

reactant | 2-(5-fluoro-1-benzofuran-3-yl)ethanol | 5 mmol, 900 mg | FC=1C=CC2=C(C(=CO2)CCO)C1 | C10H9FO2
reactant | p-toluenesulfonyl chloride | 6.0 mmol, 1.14 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | tosylate | 1 mmol, 334 mg | S(=O)(=O)([O-])C1=CC=C(C)C=C1
reactant | (1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole | 1 mmol, 198 mg | N1CCC(=CC1)N1C=CC2=CC=CC=C12 | C13H14N2
reactant | N,N-diisopropylethylamine | 5 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
solvent | DMSO | CS(=O)C | C2H6OS
product | 3-{1-[2-(5-fluoro-1-benzofuran-3-yl)ethyl]-1,2,3,6-tetrahydro-4-pyridinyl}-1H-indole | FC=1C=CC2=C(C(=CO2)CCN2CCC(=CC2)C2=CNC3=CC=CC=C23)C1 | C23H21FN2O
